US07666888B2
5-(4-Methylphenyl)-4-{[3-(4-methylphenyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-(4-methylphenyl)pyrrolidine oxalate (15.1 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (2.7 mg). Calcd for C22H22N2O2: 346.1681, found 346.1692.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-(4-methylphenyl)pyrrolidine oxalate | 0.060 mmol, 15.1 mg | C(C(=O)O)(=O)O.CC1=CC=C(C=C1)C1CNCC1
product | 5-(4-Methylphenyl)-4-{[3-(4-methylphenyl)pyrrolidin-1-yl]carbonyl}isoxazole | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=CC=C(C=C1)C | C22H22N2O2
